US07834063B2
N-(4-{3-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]propyl}phenyl)acetamide
Synthesized according to Example 84B from 4-[2-propen-1-yl(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile and 4-bromoacetanilide: MS (APCI) m/z 444 (M+1).

reactant | 4-[2-propen-1-yl(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | C(C=C)N(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C13H10F6N2
reactant | 4-bromoacetanilide | CC(=O)NC1=CC=C(C=C1)Br | C8H8BrNO
product | N-(4-{3-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]propyl}phenyl)acetamide | C(#N)C1=C(C=C(C=C1)N(CCCC1=CC=C(C=C1)NC(C)=O)CC(F)(F)F)C(F)(F)F | C21H19F6N3O
